US07727986B2
2-(4-amino-2,5-dimethylphenoxy)-5-chloro-N-ethyl-N-methylpyrimidin-4-amine-Process (b)-Compound (IV) to Compound (V)
To a solution of 8.86 g (20 mmol) 5-chloro-2-(2,5-dimethyl-4-nitrophenoxy)-N-ethyl-N-methylpyrimidin-4-amine in 50 ml hydrochloric acid and 50 ml methanol 13.5 g (60 mmol) tin-(II)-dichloro dihydrate was added and the mixture was refluxed for 4 h. After cooling down to ambient temperature the formed precipitate was filtered by suction, solved in water and brought to pH 8 with aqueous solution of sodium hydroxide. Ethyl acetate was added and the organic layer was separated, dried over magnesium sulfate, concentrated in vacuo and column chromatography (cyclohexane/ethyl acetate, 1:1) yielded 4.6 g (72%) with a purity of 96% log P (pH=2.3)=1.88.

reactant | 5-chloro-2-(2,5-dimethyl-4-nitrophenoxy)-N-ethyl-N-methylpyrimidin-4-amine | 20 mmol, 8.86 g | ClC=1C(=NC(=NC1)OC1=C(C=C(C(=C1)C)[N+](=O)[O-])C)N(C)CC | C15H17ClN4O3
reactant | methanol | 60 mmol, 50 ml, 13.5 g | CO | CH4O
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 2-(4-amino-2,5-dimethylphenoxy)-5-chloro-N-ethyl-N-methylpyrimidin-4-amine | NC1=CC(=C(OC2=NC=C(C(=N2)N(C)CC)Cl)C=C1C)C | C15H19ClN4O
